US09340506B2
2-(4-cyclopropylsulfonylphenyl)-N-[5-[3-(hydroxymethyl)phenoxy]thiazol-2-yl]-2-tetrahydropyran-4-yloxy-acetamide
N-[5-[3-[[tert-butyl(dimethyl)silyl]oxymethyl]phenoxy]thiazol-2-yl]-2-(4-cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetamide (0.05 g, 0.0758 mmol) was taken in 3 mL of dry THF and to it tetra-n-butylammonium fluoride (0.16 mL, 0.16 mmol, 1M solution in THF) was added in inert atmosphere at 0° C. After complete addition the reaction was stirred for overnight at room temperature. TLC showed complete reaction. The reaction mixture was portioned between water and ethyl acetate. The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed on vacuo to get the crude product which was purified by preparative TLC to get the solid product (0.020 g).

reactant | N-[5-[3-[[tert-butyl(dimethyl)silyl]oxymethyl]phenoxy]thiazol-2-yl]-2-(4-cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetamide | 0.0758 mmol, 0.05 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OC2=CN=C(S2)NC(C(OC2CCOCC2)C2=CC=C(C=C2)S(=O)(=O)C2CC2)=O)C=CC1 | C32H42N2O7S2Si
reactant | tetra-n-butylammonium fluoride | 0.16 mmol, 1M, 0.16 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-(4-cyclopropylsulfonylphenyl)-N-[5-[3-(hydroxymethyl)phenoxy]thiazol-2-yl]-2-tetrahydropyran-4-yloxy-acetamide | 0.020 g | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)NC=1SC(=CN1)OC1=CC(=CC=C1)CO)OC1CCOCC1 | C26H28N2O7S2
